data/specific_train_final.csv
"[CH2:8]([CH:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:10])[Cl:7])[OH:9]>>[CH2:8]([CH:6]([O:5][O:4][O:3])[Cl:7])[OH:9].[N+:2](=[O:1])[O-:10] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH3:9][CH2:8][O:7][CH:4]([CH2:5][OH:6])[O:3][O:2][O:1].[N+:11](=[O:10])[O-:12]>>[CH3:9][CH2:8][O:7][CH:4]([CH2:5][OH:6])[O:3].[N+:11](=[O:10])[O-:12].[O:1][O:2] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:17][O:16].[CH3:1][C:2]1=[CH:3][CH2:4][CH2:5][C:6](=[CH2:15])[CH:7]2[CH2:8][C:9]([CH:11]2[CH2:12][CH2:13]1)([CH3:10])[CH3:14]>>[H:17][O:16][CH2:15][C:6]1[CH2:5][CH2:4][CH:3]=[C:2]([CH2:13][CH2:12][CH:11]2[CH:7]1[CH2:8][C:9]2([CH3:10])[CH3:14])[CH3:1] 16-15,16; 15,6-15,16; 15,6-6",Room Temperature,Propagation,addition
"[H:14][CH:13]([C:5]([CH3:16])([C:6]([H:7])([CH2:11][OH:12])[O:8][O:9][H:10])[O:4][N+:2](=[O:1])[O-:3])[OH:15].[He]>>[He].[H:14][CH:13]([C:5]([CH3:16])([C:6]([H:7])([CH2:11][OH:12])[O:8])[O:4][N+:2](=[O:1])[O-:3])[OH:15].[H:10][O:9] 9,8-9; 8,9-8",Light,Initiation,homolyze
"CCC12C=C(C(C(C1O)(OO2)C)[O:21][O:20][O])C.[N+](=O)[O-]>>CCC12C=C(C(C(C1O)(OO2)C)[O:21])C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(OC(=O)C)[O:20][O:21][O].[N+](=O)[O-]>>CC([O:20])OC(=O)C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(COO)([CH:10]CO)O.[O:20][O]>>CC(COO)([CH:10](CO)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)C(=O)O[O:10].[N+:20](=[O:21])[O-]>>C1=CC=C(C=C1)C(=O)O[O:10][N+:20]([O-])[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(C)CC(C)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C)CC(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C)(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:1][O:2][O:3].[CH3:4][C:5]([CH2:12][O:13][N+:14](=[O:16])[O-:15])([CH:6]([CH:9]=[O:10])[O:7][O:8])[OH:11]>>[H:1][O:8][O:7][CH:6]([CH:9]=[O:10])[C:5]([CH3:4])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[OH:11].[O:2][O:3] 2,1-2; 2,1-8,1; 8-8,1",Room Temperature,Propagation,abstraction
"C/[C:20]/1=[CH:21]/CCC(=C)C2CC(C2CC1)(C)C.[OH:10]>>CC1(CC2C1CC[C:20]([CH:21]CCC2=C)(C)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(CO)(C=O)[O:20][O:21][O]>>CC(CO)(C=O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH:22]C1(C(O1)(C)C=CC(=O)C)C.[O:10][O]>>[H:20][O:10][O].CC(=O)C=CC1(C(O1)(C)[CH:22]=[O:21])C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCC(OC(=O)C)[O:20][O:21]N=O>>CCCC([O:20])OC(=O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C1=CC=CC=C1)[O:20][O:21]N=O>>CC(C)(C1=CC=CC=C1)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=C[C:10](C2C(C1OO2)O)O.[O:20][O]>>C1=C[C:10](C2C(C1OO2)O)(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12C=CC(C(C1O)OO2)OO[O:20][N+:21](=O)[O-]>>CCC12C=CC(C(C1O)OO2)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CC(=CC=C1)C[O:21][O:20][O].[N+](=O)[O-]>>CC1=CC(=CC=C1)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)[O:20][O:21]N=O>>CC(=O)OC(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20][O:21]N=O)C>>CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C/[C:21](=[CH:20]/C(=O)C)/C1C(O1)(C)C=O.[OH:10]>>C[C:21](C1C(O1)(C)C=O)[CH:20](C(=O)C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7][O:8][N:9]=[O:10]>>[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7].[N:9](=[O:10])[O:8] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"C[CH:10]C(C)OC(=O)C.[O:20][O]>>CC([CH:10](C)[O:20][O])OC(=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CC(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1C(CO[N+]([O-])=O)[O:10][O:20][O].[N+]([O-])=O>>c1ccccc1C(CO[N+]([O-])=O)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"CC(CCOC(=O)C)[O:20][O:21]N=O>>CC(CCOC(=O)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(C=CC=C([C:22]1O)CC)O.[O:10][O]>>[H:20][O:10][O].CCC1=CC=C[C:21](=[C:22]1O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][O:21][O].C(C(Cl)(Cl)Cl)O[O:10]>>[H:20][O:10]OCC(Cl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:11]1O[CH:10]1[O:20].[N+](=O)[O-].[O][O]>>[CH2:11]O[CH:10]=[O:20].[N+](=O)[O-].[O][O] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,retroaddition
